US07022725B2
To a mixture of 5-(4-trifluoromethylphenyl)-4-isoxazolylmethanol (5.65 g), tetrahydrofuran (20 ml) and toluene (80 ml) was added dropwise thionyl chloride (4.15 g) at 0° C. and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were filtrated and recrystallized from ethyl acetate-hexane to give 4-chloromethyl-5-(4-trifluoromethylphenyl)isoxazole (4.70 g, yield 77%) as a colorless prism. melting point: 99–100° C.

reactant | 5-(4-trifluoromethylphenyl)-4-isoxazolylmethanol | 5.65 g | FC(C1=CC=C(C=C1)C1=C(C=NO1)CO)(F)F | C11H8F3NO2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | thionyl chloride | 4.15 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-5-(4-trifluoromethylphenyl)isoxazole | 4.70 g, yield 77% | ClCC=1C=NOC1C1=CC=C(C=C1)C(F)(F)F | C11H7ClF3NO
